US05227493
A cold (-35° C.), efficiently stirred solution of the sodium salt of perfluoro-[N-(4-pyrimidinyl)methanesulphonamide] (1.22 g) in dry acetonitrile (200 cm3) was treated with neat fluorine at 10-15 mmHg (1.3 to 2.0 kPa) pressure until uptake of the halogen appeared to cease (this took nearly 3 hours). The product solution was filtered (to remove sodium fluoride) and the filtrate evaporated, leaving a colourless oily sample (about 1 g) of perfluoro-[N-fluoro-N-(4-pyrimidinyl)methanesulphonamide], shown by 19F n.m.r. spectroscopy to be contaminated with perfluoro-[N-(4-pyrimidinyl)methanesulphonamide] and its sodium salt. This impure product showed NF absorption at 47.5 p.p.m. in its 19F n.m.r. spectrum [solution in CH3CN; external CF3CO2H reference (computed chemical shift relative to CFCl3 =-29.05 p.p.m.)], and rapidly liberated iodine from aqueous potassium iodide solution. Examination of the filtered iodimetric test solution by 19F n.m.r. spectroscopy revealed only absorptions assignable to perfluoro-[N-(4-pyrimidinyl)methanesulphonamide] [δF 30.1 (m; 2-F), 2.0 (s; CF3SO2), -0.8 (m; 6-F), and -88.2 (m; 5-F) p.p.m. (CF3CO2H ext. ref)]. Examination by 19F n.m.r. spectroscopy of the solution prepared by addition of an excess of heat anisole to the impure perfluoro-[N-fluoro-N-(4-pyrimidinyl)methanesulphonamide] revealed the rapid formation at room temperature of an about 1:1 mixture of o- and p-fluoroanisole, accompanied by complete consumption of the N-fluoro-compound.

reactant | sodium | [Na] | Na
reactant | perfluoro-[N-(4-pyrimidinyl)methanesulphonamide] | 1.22 g | FC(S(=O)(=O)NC1=NC(=NC(=C1F)F)F)(F)F | C5HF6N3O2S
reactant | fluorine | FF | F2
solvent | acetonitrile | 200 cm3 | C(C)#N | C2H3N
product | perfluoro-[N-fluoro-N-(4-pyrimidinyl)methanesulphonamide] | about 1 g | FC(S(=O)(=O)N(C1=NC(=NC(=C1F)F)F)F)(F)F | C5F7N3O2S
